US03983133
A mixture of 9.06 parts of α-(aminomethyl)-p-methylbenzyl alcohol, 7.8 parts of 2-(nitramino)-2-imidazoline and 8 parts of xylene is stirred for 30 minutes at 160°C (oil-bath). The reaction mixture is cooled and acetone is added. The precipitated product is filtered off, washed with acetone and dried, yielding α-(2-imidazolin-2-ylaminomethyl)-p-methylbenzyl alcohol; 163.7°C.

reactant | α-(aminomethyl)-p-methylbenzyl alcohol | NCC(C1=CC=C(C=C1)C)O | C9H13NO
reactant | 2-(nitramino)-2-imidazoline | N([N+](=O)[O-])C=1NCCN1 | C3H6N4O2
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | acetone | CC(=O)C | C3H6O
product | α-(2-imidazolin-2-ylaminomethyl)-p-methylbenzyl alcohol | N1C(=NCC1)NCC(C1=CC=C(C=C1)C)O | C12H17N3O
